US05055221
A mixture of 0.65 g of 5-methoxy-2-(4-n-octyl-phenyl)-pyrimidine [can be obtained by condensation of methyl β-hydroxy-α-methoxyacrylate with 4-n-octylbenzamidine hydrochloride, reaction of the 4-hydroxy-5-methoxypyrimidine obtained with P2S5 and reduction of the 4-mercaptopyrimidine obtained with a Raney nickel according to J. H. Chesterfield et al., J. Chem. Soc. 4590 (1960)] and 1.0 g of KOH in 15 ml of ethylene glycol are boiled for 10 hours. 10 ml of water are added to the cooled solution, which is then acidified using glacial acetic acid and extracted five times with ether. After conventional work-up, 5-hydroxy-2-(4-n-octylphenyl)-pyrimidine is obtained. (The other homologues can be obtained analogously). 0.26 g of the 5-hydroxy-2-(4-n-octylphenyl)pyrimidine obtained, 0.25 g of 4-n-heptylbenzoyl chloride and 0.15 g of potassium carbonate in 2.5 ml of dimethylformamide are subsequently heated at 100° C. for 12 hours with stirring. The salt is removed by filtration under suction, and the filtrate is concentrated to a residue, which is taken up in ether and washed with water until neutral. Conventional work-up gives 2-(4-n-octylphenyl)-pyrimidin-5-yl 4-n-heptylbenzoate.

reactant | 5-hydroxy-2-(4-n-octylphenyl)pyrimidine | 0.26 g | OC=1C=NC(=NC1)C1=CC=C(C=C1)CCCCCCCC | C18H24N2O
reactant | 4-n-heptylbenzoyl chloride | 0.25 g | C(CCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C14H19ClO
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 2-(4-n-octylphenyl)-pyrimidin-5-yl 4-n-heptylbenzoate | C(CCCCCC)C1=CC=C(C(=O)OC=2C=NC(=NC2)C2=CC=C(C=C2)CCCCCCCC)C=C1 | C32H42N2O2
